Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline
 
Attending: ___
 
Chief Complaint:
hypotension, diarrhea, fatigue
 
Major Surgical or Invasive Procedure:
ICU stay
Upper endoscopy ___
 
History of Present Illness:
Ms. ___ is a ___ F w/ hx of chronic neutrophilic leukemia 
on hydroxyurea presenting with two weeks of diarrhea, vomiting, 
lethargy, and decreased PO intake, admitted to MICU for shock.

Patient reports she underwent vitrectomy on ___. On ___ 
she developed watery yellow diarrhea up to 3 times per day. This 
was initially associated with nb/nb vomiting for the first few 
days so she became afraid to eat and has had very poor PO and 
has not taken any medications since then. Over past 5 days she 
has only 1 watery BM per day with small "balls" of stool. For 
past 1 week she has had dysuria; denies flank pain. She has also 
developed itchy dry erythematous rash of her whole body sparing 
palms/soles and face. She has taken temp and denies fevers but 
endorses chills and rigors. She denies any new recent 
medications. Today she initially reported to urgent care and was 
transferred to ___.  Labs at ___ were 
notable for WBC 112 (differential: bands 16%, Metamyelocytes 4%, 
PMN 73%, no blasts), Na 132, BUN 39, Cr 4.4, lactate of 6. She 
was reportedly hypotensive and given ___ L IVF. She was deemed 
stable for transfer to ___.

Per notes from her outpatient hematologist/oncologist Dr. 
___ diagnosis of myeloproliferative disorder, likely 
chronic neutrophilic leukemia, was made after incidental 
discovery of leukocytosis on routine pre-operative CBC. Workup 
has suggested chronic neutrophilic leukemia. She is currently 
managed on hydrea but plan is to transition to ruxolitinib.

In the ED here, initial vitals:  98.4 96 98/56 15 97% RA 
- Labs were notable for WBC 90.7 (70% PMNs, 7% bands), Hgb 10.4, 
Plt 221. BUN/Cr 38/3.2. Lactate 3.1. Uric acid 9.5, LDH 840. UA 
with >182 WBCs, large ___, moderate bacteria.
- Imaging showed CXR with increased hilar markings c/f RML 
opacity.
- She was given albuterol/ipratropium nebs, methylprednisolone 
125 mg IV, 2g cefepime, 1 g vancomycin, 150 mg oseltamivir. She 
was given additional 1L NS. Central line was placed and she was 
started on norepinephrine gtt for pressure support.
 
On arrival to the MICU, patient appears anxious and slightly 
tremulous. She is complaining of fatigue and hunger as well as 
total body itching. She is slightly SOB. 

Review of systems:  
(+) Per HPI

 
Past Medical History:
Myeloproliferative disorder 
Hypertension
Diabetes mellitus type 2
COPD
Hypothyroidism
Hypercholesterolemia
Depression
___
breast cancer s/p lumpectomy and adjuvant radiation 

 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. Father died at ___ from 
CAD, had h/o CVA at ___. Sister died of CAD in ___. No 
significant family history of malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
===========================
Vitals:  97.8 103 118/62 23 94% RA
GENERAL: Pleasant woman, tearful, appears slightly dyspneic
HEENT: Sclerae anicteric, MMM
NECK: Supple
LUNGS: Trace crackles to bases b/l  
CV: Tachycardic, regular, no murmurs  
ABD: Soft, nontender, nondistended, normoactive bowel sounds
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  Diffuse blanching erythematous macular rash most notable 
on LEs but covering whole body sparing palms/soles/face. 
Excoriations present.
NEURO:  AOx3, EOMI, moving all extrems equally

DISCHARGE PHYSICAL EXAM: 
============================
 
Pertinent Results:
ADMISSION LABS: 
==========================
___ 10:50PM BLOOD WBC-90.7*# RBC-3.48* Hgb-10.4*# Hct-32.0* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-18.9* RDWSD-61.4* Plt ___
___ 10:50PM BLOOD Neuts-70 Bands-7* Lymphs-4* Monos-6 Eos-2 
Baso-0 Atyps-2* Metas-4* Myelos-3* Promyel-2* NRBC-1* 
AbsNeut-69.84* AbsLymp-5.44* AbsMono-5.44* AbsEos-1.81* 
AbsBaso-0.00*
___ 10:50PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-OCCASIONAL Spheroc-1+ Burr-1+ Tear 
Dr-OCCASIONAL
___ 10:50PM BLOOD ___ PTT-37.1* ___
___ 10:50PM BLOOD ___ 02:55PM BLOOD Ret Aut-6.4* Abs Ret-0.14*
___ 10:50PM BLOOD Glucose-108* UreaN-38* Creat-3.2*# Na-136 
K-3.4 Cl-104 HCO3-16* AnGap-19
___ 10:50PM BLOOD ALT-40 AST-41* LD(LDH)-840* CK(CPK)-45 
AlkPhos-67 TotBili-0.3
___ 10:50PM BLOOD Lipase-43
___ 10:50PM BLOOD Albumin-2.7* Calcium-7.6* Phos-3.5 
Mg-1.4* UricAcd-9.5*
___ 02:55PM BLOOD calTIBC-196* ___ Ferritn-481* 
TRF-151*
___ 10:50PM BLOOD TSH-6.6*
___ 10:50PM BLOOD T4-5.5
___ 03:16AM BLOOD PEP-NO SPECIFI IgG-548* IgA-85 IgM-178 
IFE-NO MONOCLO
___ 11:03PM BLOOD Lactate-3.1*

STUDIES: 
=================================
CXR ___
1. Right IJ CVL tip in low SVC. 
2. Mild vascular congestion. 
3. New small retrocardiac opacity with small left pleural 
effusion is 
worrisome for pneumonia in the appropriate clinical setting. 

CXR ___
In comparison with the study of ___, the patient has 
taken a much 
better inspiration.  Cardiac silhouette is now within normal 
limits, though there appears to be some increased elevation of 
pulmonary venous pressure.  Right IJ catheter again extends to 
the mid portion of the SVC. 

CXR ___
FINDINGS:  
Cardiac size is top normal.  Mild pulmonary edema is grossly 
unchanged.  
Bibasilar atelectasis larger on the right have minimally 
improved on the left. Right IJ catheter tip is in the cavoatrial 
junction.  .  There is no 
pneumothorax or pleural effusion. 
IMPRESSION:  
Mild pulmonary edema 

EGD ___
Findings: 
Esophagus: Normal esophagus. 
Stomach:  Excavated Lesions A 3mm focal ulceration was seen in 
the stomach body along the greater curvature.  
Duodenum: Excavated Lesions A 3cm ulcer with visible vessel was 
seen in the duodenal bulb, adjacent to the sweep.  BI-CAP 
Electrocautery was applied for hemostasis successfully.  
Other procedures: Cold forceps biopsies were performed for 
histology at the stomach antrum to evaluate for H.pylori.  

Impression: Gastric ulcer
Duodenal ulcer (thermal therapy)
Otherwise normal EGD to third part of the duodenum 

Recommendations: Continue high dose PPI BID. 
Follow up biopsy results. 

ECHO ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. Left ventricular 
systolic function is hyperdynamic (Quantitative (biplane) LVEF = 
76%). Doppler parameters are most consistent with Grade II 
(moderate) left ventricular diastolic dysfunction. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis. Trace aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
 Compared with the prior study (images reviewed) of ___, 
left ventricular systolic function is more vigorous. There is 
progression of diastolic dysfunction from mild to moderate. 
Pulmonary artery systolic pressure can now be determined and is 
mildly increased. Other findings are similar.  

DISCHARGE LABS: 
==================================

 
Brief Hospital Course:
Ms. ___ is a ___ F w/ hx of an undefined myeloproliferative 
disorder on hydroxyurea and allopurinol, COPD, DM2, presenting 
with 2 weeks of diarrhea and lethargy, 1 week of dysuria and 
rash, admitted to ___ for shock.

FICU COURSE:
The patient was transferred from ___ with hypovolemic 
vs. distributive shock given infectious symptoms and poor PO 
intake for 1 week prior to admission. Her leukocytosis was 
chronic but profound to >100. Patient was evaluated by heme-onc 
who felt that elevation was likely a leukamoid response to 
infection and not evidence of transformation especially given 
lack of blasts on cell differential. She was given IV fluids and 
started on ciprofloxacin and flagyl initially for suspected 
GI/GU source given diarrhea and dysuria with positive UA. She 
was observed to be apneic with desaturations at night in the ICU 
and complained of SOB thought to be secondary to her COPD amd 
mild pulmonary edema requiring 4L O2 by NC. Urine cultures from 
outside hospital were positive for klebsiella. Her cipro was 
discontinued and started ceftriaxone per sensitivities on 
klebsiella. Stool studies were negative and urine culture at 
this hospital was negative. She was also noted to have a diffuse 
pruritic rash which dermatology evaluated and thought likely 
secondary to allopurinol or hydroxyurea so both of these 
medications were held. She improved and was transferred to the 
medical oncology floor for continued management but still with 
an O2 requirement of ___.

MEDICAL ONCOLOGY COURSE:
Upon arrival the patient was fatigued and requiring ___ of 
oxygen on NC. Her floor course was complicated by a GI bleed and 
___ in addition to her klebsiella UTI, dyspnea, and 
myeloproliferative disorder. Details by problem are as follows:

# Upper GI Bleed: Patient had an episode of melena followed by a 
sudden drop in her hematocrit. She required 5 units PRBCs from 
___. Initially she was unable to undergo EGD given O2 
requirement and risky intubation. Her O2 was weaned as her 
respiratory status improved. On ___ she underwent EDG which 
showed a bleeding duodenal ulcer that was treated with thermal 
therapy.   
- Cont PPI

#  Dyspnea: Patient presented with intermittent dyspnea, 
tachypnea, and hypoxia.  Likely multifactorial in the setting of 
some volume overload, reactive airway disease, COPD and likely 
OSA.  Patient does not seem to have an obvious COPD exacerbation 
currently and has never been treated with steroids for her COPD 
and does not require O2 at home.  No evidence of pulmonary 
infectious process per chest imaging.  Serial CXR's have been 
stable. She was treated with gentle diuresis for mild pulmonary 
edema and her O2 requirement decreased. She was also started on 
advair and given Levalbuterol & tiotropium prn. An ECHO was 
completed which showed possible diastolic dysfunction. See 
report for details.

# Thrombocytopenia: Patient developed thrombocytopenia likely 
secondary to myeloproliferative disorder given decrease in all 
cell lines.  Labs inconsistent with consumptive process. 
Unlikely to be ___ hydrea as this was d/c'd on ___. 

# UTI: Patient with Klebsiella UTI as described above. 
Trasnitioned from braod spectrum antibiotics to ceftriaxone (d1 
on ___ and then to cipro to be completed on ___. Her 
dysuria was resolved upon discharge. 

# Drug rash: Patient presented with diffuse pruritic rash as 
above without any mucosal involvement concerning for serious 
drug hypersensitivity reaction.  Presentation inconsistent with 
Sweet's. Dermatologic evaluation was likely a limited drug rash. 
Her allopurinol and hydroxyurea were stopped. She improved with 
triamcinolone 0.1% ointment BID to all affected areas sparing 
the face, axillae and groin and fexofenadine 180mg qAM for 
pruritus during the day and hydroxyzine at night as needed. 
Prior to discharge the rash completely resolved.

# ___: Patient with acute renal injury on admission with Cr up 
to 4.4. Likely pre-renal in the setting of hypovolemic shock as 
it resolved with fluid administration. Her medications were 
monitored and nephrotoxic agents avoided. Her home lisinopril 
was held. Cr was 0.8 on discharge. 

# Myeloproliferative disorder: BCR/ABL, JAK2 negative 
myeloprolifertive disorder (unclear what she has) dx a couple 
months ago on hydroxyurea for cytoreduction and allopurinol. Per 
BMT, initial worsening leukocytosis was not consistent with 
transformation.  Meds discontinued secondary to development of 
drug rash as described above.  Plan per Dr. ___ was to 
transition her to ruxolitinib. High risk for BLAST crisis.

CHRONIC ISSUES: 
===========================
# Diabetes mellitus type 2: At home on metformin. HISS while in 
house
# Hyperlipidemia: Continued home simvastatin
# Hypertension: Continued on atenolol once hypotension resolved. 

# Depression: Continued home escitalopram
# Hypothyroidism: Continued home levothyroxine

TRANSITIONAL ISSUES: 
============================ 
- Observed apnea with desaturation while sleeping in the 
hospital, recommend outpatient sleep study for OSA.
-Home ___ to follow ambulatory oxygen saturation and 
endurance/safety on stairs in home
-Patient's home Lisinopril was stopped due to ___, consider 
restarting
-Patient to be instructed to start ___ as an outpatient per 
primary oncologist, Dr. ___.
# Communication: Patient, niece ___ ___
# Code: DNR/OK to intubate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO QHS 
2. Simvastatin 10 mg PO 3X/WEEK (___) 
3. Hydroxyurea 500 mg PO QHS 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QHS 
5. Allopurinol ___ mg PO QHS 
6. Probiotic Blend (___) 2 million 
cell-50 mg oral DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Levothyroxine Sodium 75 mcg PO DAILY 
12. Atenolol 50 mg PO DAILY 
13. Escitalopram Oxalate 5 mg PO DAILY 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Fish Oil (Omega 3) 1000 mg PO Frequency is Unknown 
16. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Escitalopram Oxalate 5 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Simvastatin 10 mg PO 3X/WEEK (___) 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 1 Day 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Q12 H Disp #*2 
Tablet Refills:*0
8. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0
9. Vitamin D ___ UNIT PO DAILY 
10. Probiotic Blend (___) 2 million 
cell-50 mg oral DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Do Not Crush 
13. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QHS 
14. ValACYclovir 1000 mg PO Q12H Duration: 5 Days 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*10 Tablet Refills:*0
15. Fish Oil (Omega 3) 1000 mg PO HOME DOSE 
16. Benzonatate 100 mg PO TID 
RX *benzonatate [Tessalon Perles] 100 mg 1 capsule(s) by mouth 
three times a day Disp #*21 Capsule Refills:*0
17. Allopurinol ___ mg PO QHS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGOSES:
GI Bleed secondary to ulcer
Volume overload
___
Septic Shock secondary to UTI
Anemia secondary to acute hemorrhage

SECONDARY DIAGNOSES:
Myeloproliferative disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care here at ___ 
___. You were admitted to the ICU for shock 
and were found to have bacteria growing in your urine. You were 
treated with IV antibiotcs and IV fluids and were transferred to 
the medical oncology floor when your vital signs were stable. 

Your stay on the medical oncology floor was unfortunately 
complicated by shortness of breath, kidney injury and a 
gastrointestinal bleed.
You underwent upper endoscopy on ___ and were found to have a 
bleeding duodenal ulcer which was treated. 

Please take all of your medications as prescribed and attend all 
follow up appointments scheduled below.  Dr. ___ 
will be in touch regarding when to start Jakafi when you return 
home.

Thank you for choosing ___ for your healthcare needs.
Sincerely,
Your ___ Team
 
Followup Instructions:
___